US06034055
11b N-[2-(N-Carbobenzoxy-L-alanyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-dodecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-dodecyl-dodecanamide and N-carbobenzoxy-L-alanine.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-dodecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCC)N | C32H63N3O6
reactant | N-carbobenzoxy-L-alanine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
product | N-[2-(N-Carbobenzoxy-L-alanyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-dodecyl-dodecanamide | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCC)N | C43H74N4O9
